2108-10-08 09:09:00 Physician Attending Progress Note
Chief Complaint: Hypotension, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2108-10-7**] 09:13 PM
 ARTERIAL LINE - START [**2108-10-7**] 11:12 PM
   Remains on vasopressor (levophed)
   Experienced hypoglycemia this AM --> received 1 amp D50W.
   This AM, complains of abdominal pain, epigastric, associated with
   nausea.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2108-10-8**] 12:44 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-10-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-17**] Mild
   Pain location: Abdominal, epigastric
   Flowsheet Data as of  [**2108-10-8**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.4
   HR: 109 (78 - 113) bpm
   BP: 97/49(66) {83/40(54) - 125/54(77)} mmHg
   RR: 21 (17 - 21) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
   CVP: 7 (5 - 12)mmHg
   Total In:
                                                                  5,031 mL
                                                                  1,737 mL
   PO:
   TF:
   IVF:
                                                                  1,031 mL
                                                                  1,737 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    275 mL
   Urine:
                                                                     70 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,811 mL
                                                                  1,462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.27/40/107/19/-7
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   140 K/uL
   40 mg/dL
   2.2 mg/dL
   19 mEq/L
   4.4 mEq/L
   39 mg/dL
   114 mEq/L
   143 mEq/L
   26.0 %
   17.9 K/uL
        [image002.jpg]
                             [**2108-10-8**]  04:03 AM
                             [**2108-10-8**]  04:15 AM
                             [**2108-10-8**]  07:33 AM
   WBC
   17.9
   Hct
   26.0
   Plt
   140
   Cr
   2.2
   TCO2
   21
   19
   Glucose
   40
   Other labs: PT / PTT / INR:15.7/42.7/1.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Ca++:7.1 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Sepsis
   SEPSIS -- clinical presentation consistent with sepsis, possible
   urinary source.  Additional concerns include C. diff colitis, bowel
   ischemia, pancreatitis.
   ALTERED MENTAL STATUS -- somewhat more obtunded compared to admission,
   but improved this AM during rounds.  Variable.  Suspect toxic-metabolic
   encephalopathy.
   HYPOTENSION -- suspect hypovolemia and sepsis.  Monitor BP, maintain
   MAP >60 mmHg.
   ABDOMINAL PAIN -- new pain this AM.  Concerns include C. Diff, PUD,
   acute pancreatitis, and ischemic bowel.  Monitor serial exam, check
   stool for C. diff, guiac stools, amylase & lipase.  Consider empirical
   Flagyl.
   RENAL FAILURE -- suspect prerenal, although at risk for ATN.  Monitor
   urine output, BUN, creatinine.
   ACIDOSIS -- non-anion gap, likley from resussitation.  Use lactated
   ringer's judiciously in setting of acute renal failure.
   FLUIDS -- suspect hypovolemia.  Continue iv fluid boluses, monitor uo,
   BUN, creatinine.
   TACHYCARDIA -- sinus; may be due to hypotension, hypovolemia, pain or
   vasopressor effect.
   HYPOGLYCEMIA -- likely due to oral hypoglycemic agents in setting of
   NPO.
   ANEMIA -- ACD and iron deficiency by blood testing.  Transfuse to
   Hct>28.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2108-10-7**] 09:13 PM
   18 Gauge - [**2108-10-7**] 09:14 PM
   Arterial Line - [**2108-10-7**] 11:12 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: elevated HOB
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2108-10-09 09:42:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2108-10-8**] 03:01 PM
 EKG - At [**2108-10-8**] 06:56 PM
   Remains on vasopressor.  Vasopressor adjusted for tachycardia --> now
   on Neosinephrine, and HR <100.
   Continues to complain of diffuse (perhaps epigastric pain, but
   frequently localizing to RUQ) abdominal pain.  General Surgery
   evaluated, without evidence for acute surgical abdomen at this time.
   NGT placed for decompression of bowel gas.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2108-10-9**] 05:56 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-10-9**] 07:59 AM
   Infusions:
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2108-10-9**] 04:25 AM
   Pantoprazole (Protonix) - [**2108-10-9**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2108-10-9**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**4-17**] Mild
   Pain location: Abdomen
   Flowsheet Data as of  [**2108-10-9**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 77 (77 - 124) bpm
   BP: 89/48(64) {70/35(45) - 132/70(92)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 9 (3 - 9)mmHg
   Total In:
                                                                  4,405 mL
                                                                    772 mL
   PO:
   TF:
   IVF:
                                                                  4,405 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    590 mL
   Urine:
                                                                  1,210 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,195 mL
                                                                    182 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.32/38/80.[**Numeric Identifier 176**]/19/-4
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S4, No(t) Rub, (Murmur: Systolic, Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: RUQ and epigastric, No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   116 K/uL
   98 mg/dL
   2.5 mg/dL
   19 mEq/L
   5.1 mEq/L
   46 mg/dL
   109 mEq/L
   139 mEq/L
   25.2 %
   26.4 K/uL
        [image002.jpg]
                             [**2108-10-8**]  04:03 AM
                             [**2108-10-8**]  04:15 AM
                             [**2108-10-8**]  07:33 AM
                             [**2108-10-8**]  10:30 AM
                             [**2108-10-8**]  02:51 PM
                             [**2108-10-8**]  05:33 PM
                             [**2108-10-9**]  03:37 AM
   WBC
   17.9
   24.2
   26.4
   Hct
   26.0
   27.0
   25.2
   Plt
   140
   147
   116
   Cr
   2.2
   2.3
   2.5
   TCO2
   21
   19
   21
   21
   Glucose
   40
   82
   98
   Other labs: PT / PTT / INR:15.7/42.7/1.4, ALT / AST:377/235, Alk Phos /
   T Bili:186/1.1, Amylase / Lipase:53/8, Differential-Neuts:81.0 %,
   Band:16.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.5
   mmol/L, LDH:351 IU/L, Ca++:6.5 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Imaging: RUQ US -- distention of GB, upper limit of bile duct
   distention.
   Assessment and Plan
   Sepsis, intraabodominal or urinary source.
   SEPSIS -- persistent, severe.  Continue supportive care.
   HYPOTENSION -- persistent.  Attributed to hypovolemia and sepsis.
   Continue to supportive care, maintain MAP > 60 mmHg.
   LFT Abnormalities -- possible shock liver; with abdominal pain, and
   borderline RUQ ultrasound, would condider HIDA scan.
   ABDOMINAL PAIN
 concern remains for bowel ischemia.  Consider repeat
   ABD CT with oral contrast.
   FLIUDS -- hypovolemia, sepsis.  No evidence for cardiac etiology.
   NUTRITIONAL SUPPORT -- NPO pending evaluation.
   ANEMIA -- gradual reduction in Hct, without clinical evidence for
   bleed.  Monitor, transfuse to >28.
   NIDDM -- maintain glucose <140.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-10-7**] 09:13 PM
   18 Gauge - [**2108-10-7**] 09:14 PM
   Arterial Line - [**2108-10-7**] 11:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2108-10-10 09:10:00 Physician Attending Progress Note
Chief Complaint: Sepsis, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2108-10-9**] 11:02 AM
   HIDA scan of gallbladder
 NUCLEAR MEDICINE - At [**2108-10-9**] 02:00 PM
   returned to ICU
 ARTERIAL LINE - STOP [**2108-10-9**] 03:49 PM
 ARTERIAL LINE - START [**2108-10-9**] 03:51 PM
   Experienced episodes of hypoglycemia upon returning from radiology,
   responded to iv D50 boluses.
   Weaned off vasopressor last PM, received iv fluids and 1 U PRBC.
   Somewhat more somnulant this AM, but appropriate.
   Less abdominal pain today.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-10-9**] 03:49 PM
   Metronidazole - [**2108-10-10**] 04:00 AM
   Meropenem - [**2108-10-10**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-10-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2108-10-9**] 05:30 PM
   Dextrose 50% - [**2108-10-10**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2108-10-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease,
   Hypoglycemia
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-15**] Minimal
   Pain location: abdominal pain
   Flowsheet Data as of  [**2108-10-10**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.4
C (95.8
   HR: 69 (63 - 82) bpm
   BP: 121/56(78) {73/28(40) - 133/61(89)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 17 (7 - 17)mmHg
   Total In:
                                                                  4,810 mL
                                                                  1,493 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  3,591 mL
                                                                  1,133 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  1,505 mL
                                                                    450 mL
   Urine:
                                                                  1,155 mL
                                                                    390 mL
   NG:
                                                                    350 mL
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  3,305 mL
                                                                  1,043 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.28/45/84.[**Numeric Identifier 1000**]/20/-5
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: mild, diffuse, No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   98 K/uL
   34 mg/dL
   2.7 mg/dL
   20 mEq/L
   4.2 mEq/L
   49 mg/dL
   108 mEq/L
   138 mEq/L
   25.1 %
   17.2 K/uL
        [image002.jpg]
                             [**2108-10-8**]  10:30 AM
                             [**2108-10-8**]  02:51 PM
                             [**2108-10-8**]  05:33 PM
                             [**2108-10-9**]  03:37 AM
                             [**2108-10-9**]  04:26 PM
                             [**2108-10-9**]  06:25 PM
                             [**2108-10-9**]  08:17 PM
                             [**2108-10-10**]  01:08 AM
                             [**2108-10-10**]  03:50 AM
                             [**2108-10-10**]  04:10 AM
   WBC
   24.2
   26.4
   24.0
   17.2
   Hct
   27.0
   25.2
   22.6
   25.6
   25.1
   Plt
   147
   116
   108
   98
   Cr
   2.3
   2.5
   2.8
   2.7
   TCO2
   21
   21
   23
   22
   Glucose
   82
   98
   23
   34
   Other labs: PT / PTT / INR:13.8/50.1/1.1, ALT / AST:240/99, Alk Phos /
   T Bili:154/1.0, Amylase / Lipase:44/8, Differential-Neuts:91.5 %,
   Band:0.0 %, Lymph:4.8 %, Mono:3.5 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:269 IU/L, Ca++:6.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.4
   mg/dL
   Imaging: ABD CT -- no acute pathology; IVC filter in place
   HIDA Scan negative for acute cholecystitis
   Assessment and Plan
   Sepsis, urinary source.
   SEPSIS -- slow improvement, but now off vasopressors.  WBC
   normalizing.  Continue support.  Continue empirical antimicrobials.
   HYPOTENSION -- attributed to hypovolemia and sepsis.  No evidence for
   cortisol insufficiency.  No evidence MI.
   ACUTE RENAL FAILURE -- likely attributed to sepsis, hypovolemia.
   Continue to monitor UO, BUN, creat.  Monitor for diuresis.
   ABNORMAL LFTs -- resolving;  attributed to shock liver.  Monitor
   serial.
   THROMBOCYTOPENIA --  may be consumption (but no evidence for active
   bleeding), may be bone marrow suppression, may be medication related
   (ex heparin).  Monitor.
   ABD PAIN -- somewhat improved, but more distended --> decompress with
   NGT, intermittent suction.
   HYPOCALCEMIA -- total body depleted.  continue to replete, monitor
   ionized ca++
   HYPOGLYCEMIA -- accounts for lethargy in part;  [**Month (only) 51**] be attributed to
   slow clearance of oral hypoglycemia in combination with NPO.  [**Month (only) 51**] be
   ascribed to antibiotic.  Continue to monitor glucose, hold hypoglycemic
   agents.  Provide D5W if remains NPO.
   NUTRITION -- hope to initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-10-7**] 09:13 PM
   Arterial Line - [**2108-10-9**] 03:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2108-10-11 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2108-10-10**] 01:09 PM
   - Transfused 1 U yesterday for low Hct 25 now 26.5.  Stool guiac
   negative.
   - Hypoglycemic now currently on D10
 NS but unable to diurese
   yesterday due to this
   - ABG with PO2 in the 50
s despite sat of 100 on RA.  Came up to 115 on
   2L NC.
   - C Diff negative
   -E coli [**Last Name (un) 270**] to [**Last Name (un) **] and ceftriaxon, R to Piperacillin and Unasyn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-10-9**] 03:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2108-10-10**] 08:00 AM
   Metronidazole - [**2108-10-11**] 04:00 AM
   Meropenem - [**2108-10-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2108-10-10**] 07:30 AM
   Heparin Sodium (Prophylaxis) - [**2108-10-10**] 08:00 AM
   Pantoprazole (Protonix) - [**2108-10-10**] 10:00 AM
   Furosemide (Lasix) - [**2108-10-10**] 11:30 AM
   Morphine Sulfate - [**2108-10-10**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-10-11**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 64 (64 - 80) bpm
   BP: 102/38(59) {93/34(54) - 141/61(91)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 6 (6 - 17)mmHg
   Total In:
                                                                  3,350 mL
                                                                    745 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,707 mL
                                                                    745 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                  1,851 mL
                                                                    450 mL
   Urine:
                                                                  1,571 mL
                                                                    450 mL
   NG:
                                                                    280 mL
   Stool:
   Drains:
   Balance:
                                                                  1,499 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.32/42/61/22/-4
   Physical Examination
   Gen- NAD, AO x1, MS much improved, interactive and following commands
   just doesn
t remember what happened last couple days.
   CV- RRR No M/R/G
   Pulm- Bibasilar crackles, no wheezes
   Abd- Soft, TTP and epigastrum but much improved from yesterday.
   Distention improved.  BS+
   Extr- WWP, Blood blister on L big toe
   Labs / Radiology
   78 K/uL
   9.0 g/dL
   121 mg/dL
   2.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   46 mg/dL
   106 mEq/L
   138 mEq/L
   26.6 %
   15.5 K/uL
        [image002.jpg]
                             [**2108-10-9**]  08:17 PM
                             [**2108-10-10**]  01:08 AM
                             [**2108-10-10**]  03:50 AM
                             [**2108-10-10**]  04:10 AM
                             [**2108-10-10**]  02:06 PM
                             [**2108-10-10**]  04:10 PM
                             [**2108-10-10**]  05:30 PM
                             [**2108-10-10**]  10:00 PM
                             [**2108-10-10**]  10:09 PM
                             [**2108-10-11**]  04:04 AM
   WBC
   17.2
   15.5
   Hct
   25.6
   25.1
   32
   26.6
   Plt
   98
   78
   Cr
   2.7
   2.9
   TropT
   0.10
   0.09
   TCO2
   23
   22
   22
   22
   23
   Glucose
   34
   121
   Other labs: PT / PTT / INR:13.8/50.1/1.1, CK / CKMB /
   Troponin-T:499/6/0.09, ALT / AST:166/50, Alk Phos / T Bili:211/0.6,
   Amylase / Lipase:28/8, Differential-Neuts:91.5 %, Band:0.0 %, Lymph:4.8
   %, Mono:3.5 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL,
   LDH:225 IU/L, Ca++:6.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   [**Age over 90 **] y/o M with PMHx of DM & hypotensive TIA presents from rehab with
   severe sepsis, (hypotension and UTI/pyelonephritis) and abdominal pain.
   # Sepsis: Pt presented with hypotension, acute renal failure, elevated
   LFT
s and bandemia.   Source is still currently unknown but may be
   urosepsis with ESBL.  He had  positive UA and CT peri-nephric
   stranding, but also a history of multiple SBO and dilated loops of
   bowel on CT.  Urine Cx with E.coli, now improving on
   Vanc/Zosyn/flaygyl/[**Last Name (un) **].
   - Continue to monitor BP, if decreased can bolus but otherwise
   maintanence fluids.
   - f/u E. Coli sensitivities
   - Transfuse 1 U PRBC to keep Hct >28.
   - ABG in PM to trend lactate.
   - Continue Zosyn/flagyl/[**Last Name (un) **] for now,
   - D/C vanc
   - Continue Meropenum for possibility of ESBL
   #Abdominal Pain: Dilated colon on CXR and in Abd CT w/o contrast.  Pain
   out of proportion to exam this morning.  Given his recent TIA we are
   concerned about ischemic bowel.  Flagyl started for ? of C diff though
   probability low. It is also possible he has liver/biliary pathology
   although LFTs are correcting quickly suggesting shock liver.
   -CT with Oral Contrast for ? of SBO
   -F/u C diff. Cont flagyl for now
   -serial LFTs
   -Zofran for nausea
   .
   #. Hypoglycemia: Patient required 3 amps D50 overnight.  Likely
   combination of poor clearance of glyburide given prior to admit with
   new renal/hepatic injury, and pt being NPO.
   -Switch IVF to D5
   - consider TF when abdomen is decompressed and patient with regular BM.
   - D/C ISS
   .
   # MS changes: Patient lethargic after morphine yesterday.  Also with
   low Glucose. Neuro exam non-focal but pt not oriented to time/place.
   Most likely toxic/metabolic encephalopathy in setting of acute
   infection vs. baseline MS.
   - Hold sedatives for now
   - q4h neuro exams
   - treat infection: continue empiric Abx & IVF
   - Add D5 to IVF to prevent further Hypoglycemia
   .
   # Non-Anion Gap Metabolic Acidosis: Likely secondary to NS
   resuscitation, plus underlying infection, lactate is normal.
   - continue to monitor
   # ARF: Pt with recent baseline creatinine of 1.1, currently 2.7.  Given
   prolonged turnaround of renal function in setting of  hypotension ->
   likely ATN
   - monitor creatinine with aggressive IVF
   - renally dose ABx, hold nephrotoxins
   - continue to monitor UOP to keep >30 cc/hr
   .
   # Anemia: Baseline hct appears to be in 26-28 range.   Most likely
   hemodilution but pt with acute 3 pt drop this AM.  Iron low with normal
   [**Last Name (LF) 1271**], [**First Name3 (LF) **] likely iron deficiency and chronic disease.  Given septic
   picture, we will transfuse to higher goal
   -Transfuse for HCT<28
   -replete iron when stable and taking PO
   -q12 Hct
   - guaic all stools
   .
   # DM: Holding oral hypoglycemics, monitor BS QIDACHS
   - D/C Humalog sliding scale coverage given Hypoglycemia
   .
   # Hypertension: currently hypotensive
   - holding all BP meds for now
   - continue Aspirin 81mg
   .
   # Hyperlipidemia: Hold Atorvastatin 10mg daily given poor PO with
   altered MS
   .
   # FEN: NG tube to suction.  Will give D5
 NS for hypoglycemia
   - adv diabetic diet when more alert
   - monitor lytes/replete prn
   .
   # Access: Subclavian CVL, PIV
   .
   # PPx: Heparin sc TID, PPI, bowel regimen
   .
   # Code: DNR/DNI (lines & pressors okay)
   .
   # Dispo: ICU pending improvement in MS
   .
   # Comm:  with patient and HCP
 Adopted son [**Name (NI) 20**] [**Name (NI) 1267**] [**Telephone/Fax (1) 1312**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-10-7**] 09:13 PM
   Arterial Line - [**2108-10-9**] 03:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2108-10-11 10:21:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2108-10-10**] 01:09 PM
   Transfused 1 U PRBC for low Hct.
   Hypoxemia yesterday on RA --> resolved on 2 LNP
   Remained on D10W infusion to maintain blood glucose >100
   Overall, more awake this AM.  Conversant.  Appropriate.
   Less dyspnea.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-10-9**] 03:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2108-10-10**] 08:00 AM
   Metronidazole - [**2108-10-11**] 04:00 AM
   Meropenem - [**2108-10-11**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-10-10**] 11:30 AM
   Morphine Sulfate - [**2108-10-11**] 05:00 AM
   Pantoprazole (Protonix) - [**2108-10-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease,
   hypoglycemia
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-15**] Minimal
   Pain location: abd pain
   Flowsheet Data as of  [**2108-10-11**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 64 (64 - 80) bpm
   BP: 117/48(74) {93/34(54) - 141/61(91)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 13 (6 - 16)mmHg
   Total In:
                                                                  3,350 mL
                                                                  1,071 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,707 mL
                                                                  1,011 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                  1,851 mL
                                                                    680 mL
   Urine:
                                                                  1,571 mL
                                                                    600 mL
   NG:
                                                                    280 mL
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  1,499 mL
                                                                    391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.32/41/115/22/-4
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: RUQ; improved, No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   78 K/uL
   121 mg/dL
   2.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   46 mg/dL
   106 mEq/L
   138 mEq/L
   26.6 %
   15.5 K/uL
        [image002.jpg]
                             [**2108-10-10**]  01:08 AM
                             [**2108-10-10**]  03:50 AM
                             [**2108-10-10**]  04:10 AM
                             [**2108-10-10**]  02:06 PM
                             [**2108-10-10**]  04:10 PM
                             [**2108-10-10**]  05:30 PM
                             [**2108-10-10**]  10:00 PM
                             [**2108-10-10**]  10:09 PM
                             [**2108-10-11**]  04:04 AM
                             [**2108-10-11**]  06:46 AM
   WBC
   17.2
   15.5
   Hct
   25.6
   25.1
   32
   26.6
   Plt
   98
   78
   Cr
   2.7
   2.9
   TropT
   0.10
   0.09
   TCO2
   22
   22
   22
   23
   22
   Glucose
   34
   121
   Other labs: PT / PTT / INR:13.8/50.1/1.1, CK / CKMB /
   Troponin-T:499/5/0.09, ALT / AST:166/50, Alk Phos / T Bili:211/0.6,
   Amylase / Lipase:28/8, Differential-Neuts:91.5 %, Band:0.0 %, Lymph:4.8
   %, Mono:3.5 %, Eos:0.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL,
   LDH:225 IU/L, Ca++:6.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Sepsis, urinary source; acute renal failure.
   SEPSIS -- good response to current therapy.  Monitor VS.
   HYPTENSION -- hypovolemia, sepsis.  Resoved.  Maintin BP MAP > 60 mmHg
   ACUTE RENAL FAILURE -- progressive, non-oliguric.  Creatinine continues
   to increase.  Intravascular replete.  Monitor uo, BUN, creatinine.
   NUTRITIONAL SUPPORT -- NPO.  D10W for glucose control.
   FLUIDS -- remains volume expanded.  Desire net negative.  Monitor I/O.
   HYPOGLYCEMIA -- likely attributed to slow clearance of oral
   hypoglycemic [**Doctor Last Name **] in setting of renal failure.
   LFT ABNORMALITIES -- resolving; likely shock liver.  Continue to
   monitor.
   THROMBOCYTOPENIA -- marked decrease.  Likely drug-related.  check HIT
   antibody.
   ABD PAIN -- likely related to hepatic inflammation, possible related to
   sepsis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-10-7**] 09:13 PM
   Arterial Line - [**2108-10-9**] 03:51 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill